US07968570B2
4-[7-Chloro-1-oxo-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-1H-isoindol-5-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
5-Bromo-7-chloro-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one (190.0 mg, 0.452 mmol), 4-(4,4,5,5-Tetramethyl-[1,3,2]-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert butyl ester (140.0 mg, 0.452 mmol), potassium carbonate (187.0 mg, 1.36 mmol), and PdCl2(dppf) (37.0 mg, 0.045 mmol) were suspended in anhydrous dimethyl formamide (2 mL) and the mixture was heated to 110° C. After nineteen hours, the heating was stopped and the cooled reaction mixture was partitioned between ethyl acetate and water. The organic phase was washed with water and brine, dried over magnesium sulfate, filtered and concentrated. The product was purified by column chromatography (30% EtOAc/Hexanes) to provide the title compound as a colourless solid (55.0 mg, 23%.) 1H NMR (300 MHz, CDCl3): δ 7.38 (m, 3H), 7.26 (s, 1H), 7.18 (d, 2H), 6.18 (broad s, 1H), 4.79 (s, 2H), 4.25 (s, 2H), 4.11 (broad s, 2H), 3.65 (t, 2H), 2.5 (broad s, 2H), 1.49 (s, 9H).

reactant | 5-Bromo-7-chloro-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one | 0.452 mmol, 190.0 mg | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H10BrClF3NO2
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert butyl ester | 0.452 mmol, 140.0 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | potassium carbonate | 1.36 mmol, 187.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | PdCl2(dppf) | 0.045 mmol, 37.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[7-Chloro-1-oxo-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-1H-isoindol-5-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 55.0 mg, 23% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC(F)(F)F | C26H26ClF3N2O4
